US08252797B2
8-{1-[3-(4-Fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-7-methyl-1,3-dipropyl-3,7-dihydro-purine-2,6-dione
A mixture of 8-{1-[3-(4-fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1,3-dipropyl-3,7-dihydro-purine-2,6-dione (0.035 g, 0.08 mmol), potassium carbonate (0.022 g, 0.16 mmol), methyl iodide (0.005 ml, 0.088 mmol) and DMF (2 ml) were heated at 50° C. for 20 hour. The mixture was cooled to room temperature and diluted with water (10 ml). The aqueous layer was extracted with ethyl acetate. The organic layer was washed with water and sat. brine solution, and dried over Na2SO4. Solvent was evaporated, the residue obtained was triturated with hexane to obtain the title compound (0.022 g, 61

reactant | 8-{1-[3-(4-fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | 0.08 mmol, 0.035 g | FC1=CC=C(C=C1)C#CCN1N=CC(=C1)C1=NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC | C23H23FN6O2
reactant | potassium carbonate | 0.16 mmol, 0.022 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.088 mmol, 0.005 ml | CI | CH3I
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | 8-{1-[3-(4-Fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-7-methyl-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | FC1=CC=C(C=C1)C#CCN1N=CC(=C1)C1=NC=2N(C(N(C(C2N1C)=O)CCC)=O)CCC | C24H25FN6O2
